US08258130B2
A solution of 2-pyrimidin-2-yl-4-methyl-pyrimidine-5-carboxylic acid (1.41 mmol), 5-fluoro-3-methyl-pyrrolo[3,2-b]pyridin-1-ylamine (1.41 mmol), DIPEA (158 mg, 4.22 mmol) and HATU (1.69 mmol) in anhydrous DMF (8 mL) is stirred at 90° C. for 16 hours. DMF is evaporated off in vacuo. The residue is dissolved in EtOAc (40 mL), washed with water (3×10 mL) and brine (10 mL), dried (Na2SO4), filtered, and concentrated in vacuo. The residue is purified by silica gel chromatography eluting with 1-20% MeOH in DCM to afford 4-methyl-[2,2′]bipyrimidinyl-5-carboxylic acid (5-fluoro-3-methyl-pyrrolo[3,2-b]pyridin-1-yl)-amide (125 mg) as a solid. MS: 364 (M+H); 1H NMR (300 MHz, CD3OD): δ 2.31 (s, 3H), 2.87 (s, 3H), 6.87 (d, H), 7.50 (s, H), 7.66 (t, H), 7.96 (t, H), 9.04 (d, 2H), 9.27 (s, H).

reactant | 2-pyrimidin-2-yl-4-methyl-pyrimidine-5-carboxylic acid | 1.41 mmol | N1=C(N=CC=C1)C1=NC=C(C(=N1)C)C(=O)O | C10H8N4O2
reactant | 5-fluoro-3-methyl-pyrrolo[3,2-b]pyridin-1-ylamine | 1.41 mmol | FC1=CC=C2C(=N1)C(=CN2N)C | C8H8FN3
reactant | DIPEA | 4.22 mmol, 158 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 1.69 mmol | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 4-methyl-[2,2′]bipyrimidinyl-5-carboxylic acid (5-fluoro-3-methyl-pyrrolo[3,2-b]pyridin-1-yl)-amide | 125 mg | FC1=CC=C2C(=N1)C(=CN2NC(=O)C=2C(=NC(=NC2)C2=NC=CC=N2)C)C | C18H14FN7O
